US08071592B2
(l) 1,1-Dimethylethyl (1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate
[6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]acetaldehyde (0.250 g, 1.14 mmol) was combined with 1,1-dimethylethyl 4-piperidinylcarbamate (0.229 g, 1.14 mmol) in a 1:1 MeOH/DCM solution. Excess Na2SO4 was added as a drying agent and the solution was stirred at ambient temperature overnight. NaBH(OAc)3 (0.724 g, 3.42 mmol) was added and the reaction was stirred an additional 2 h. The solution was concentrated onto silica gel under vacuum and the crude residue purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the desired compound (0.271 g, 59%).

reactant | [6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]acetaldehyde | 1.14 mmol, 0.250 g | COC=1C=CC2=C(N(C(C=N2)=O)CC=O)N1 | C10H9N3O3
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 1.14 mmol, 0.229 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 3.42 mmol, 0.724 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH DCM | CO.C(Cl)Cl
product | 1,1-Dimethylethyl (1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate | 0.271 g, 59% | COC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)NC(OC(C)(C)C)=O)N1 | C20H29N5O4
